US08168794B2
To a solution of (+/−)-6-bromo-5-methyl-3-(3-nitropyridin-4-yl)cyclohex-2-enol (1.0 equiv.) in THF (0.1M) was added potassium tert-butoxide (1.5 equiv.). The reaction turned from orange to black almost immediately. By TLC, the formation of product is clean in 30 min. Quenched by adding saturated ammonium chloride and ethyl acetate. The organic phase was dried with brine, then sodium sulfate, filtered, and concentrated. The crude product was dissolved in ethanol and water (3:1, 0.1M), and ammonium chloride (2.0 equiv) and sodium azide (2.0 equiv.) were added. The dark orange reaction was stirred at room temperature overnight. The conversion to product is clean as indicated by LC/MS. The reaction was concentrated to remove the ethanol, ethyl acetate and water were added, the organic phase was dried with sodium sulfate, filtered, and concentrated. The crude material was purified via silica gel column chromatography eluting with ethyl acetate and hexanes (1:1) to give (+/−)-2-azido-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enol in 55% yield. LC/MS=276.0 (M+H), LC=2.803 min.

reactant | (+/−)-6-bromo-5-methyl-3-(3-nitropyridin-4-yl)cyclohex-2-enol | 1.0 equiv. | BrC1C(CC(=CC1O)C1=C(C=NC=C1)[N+](=O)[O-])C | C12H13BrN2O3
reactant | potassium tert-butoxide | 1.5 equiv. | CC(C)([O-])C.[K+]
reactant | ammonium chloride | 2.0 equiv | [Cl-].[NH4+]
reactant | sodium azide | 2.0 equiv. | [N-]=[N+]=[N-].[Na+]
solvent | THF | 0.1M | C1CCOC1 | C4H8O
solvent | water | 0.1M | O | H2O
product | (+/−)-2-azido-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enol | 55% yield | N(=[N+]=[N-])C1C(C(CC(=C1)C1=C(C=NC=C1)[N+](=O)[O-])C)O | C12H13N5O3
